US07202364B2
2,6-Dichloro-4-iodoaniline (10.4 g, 36.0 mmol) is dissolved in toluene (100 mL) and treated with 1.5 equivalents of phenylboronic acid (6.6 g, 54 mmol), and a catalytic amount of tetrakistriphenylphosphine palladium(0) (3.0 g, 2.6 mmol) as a solution in ethanol (20 mL). Sodium carbonate (40 mL of 2 M aqueous solution) is added and the reaction mixture stirred and heated to reflux temperature for 24 hours. After cooling to room temperature, the mixture is partitioned between Et2O (300 mL) and water (150 mL). The organic layer is washed with brine, dried (MgSO4) and concentrated by rotary evaporator. The residual oil is purified by flash chromatography (9:1 hexanes/EtOAc) to give 2,6-dichloro-4-phenylaniline (m.p. 112–113° C.).

reactant | 2,6-Dichloro-4-iodoaniline | 36.0 mmol, 10.4 g | ClC1=C(N)C(=CC(=C1)I)Cl | C6H4Cl2IN
reactant | phenylboronic acid | 54 mmol, 6.6 g, 1.5 equivalents | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Sodium carbonate | 2 M, 40 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2,6-dichloro-4-phenylaniline | ClC1=C(N)C(=CC(=C1)C1=CC=CC=C1)Cl | C12H9Cl2N
